US08389508B2
To a solution of 3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylbenzaldehyde (D11) (44 mg) and ethyl 4-piperidinecarboxylate (89 mg) in methanol (10.00 mL) stirred at room temperature was added sodium acetate (55 mg) and AcOH (0.033 mL). The reaction mixture was stirred at room temperature for 10 min. And the solvent was removed by evaporation. The residue was dissolved in dichloromethane (DCM) (10 mL), and sodium triacetoxyborohydride (72.3 mg) was added. Stirring continued for 2 h. Water was added to quench the reaction, and DCM was removed by evaporation. The mixture was extracted by EA for 3 times. The combined organic solution was washed by brine, dried over anhydrous Na2SO4. The dried solution was filtered and concentrated to afford ethyl 1-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]methyl}-4-piperidinecarboxylate (D12) (60.1 mg). MS (ES): C28H34ClN3O3S requires 527. found 528.2 (M+H+).

reactant | 3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylbenzaldehyde | 44 mg | ClC=1C=C(C=CC1OC(C)C)C1=NN=C(S1)C=1C(=C(C=O)C=CC1)CC | C20H19ClN2O2S
reactant | ethyl 4-piperidinecarboxylate | 89 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium acetate | 55 mg | C(C)(=O)[O-].[Na+]
reactant | AcOH | 0.033 mL | CC(=O)O | C2H4O2
solvent | methanol | 10.00 mL | CO | CH4O
product | ethyl 1-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]methyl}-4-piperidinecarboxylate | 60.1 mg | ClC=1C=C(C=CC1OC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CN1CCC(CC1)C(=O)OCC)CC | C28H34ClN3O3S
